US05310743
j) (2R*,4S*)-2-Benzyl-1-(2-naphthoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
A solution of 58 μl (0.795 mmol) of thionyl chloride in 0.2 ml of toluene is added dropwise to a solution of 97 mg (0.56 mmol) of 2-naphthoic acid in I ml of toluene over the course of 10 minutes at 50° under argon, and the reaction mixture is stirred at 80° for 2 hours. It is then concentrated in a rotary evaporator, and I ml of toluene is added, and evaporation is repeated, twice each. The brown oil is dissolved in I ml of methylene chloride and added under argon to a solution of 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine at 0° and stirred at 0° for 2 hours. Water is subsequently added to the reaction mixture, and extraction with methylene chloride is carried out. The organic phases are washed with brine, dried over magnesium sulfate and evaporated to dryness. The yellow oil is chromatogaphed on silica gel with methylene chloride/methanol/conc. ammonia (1000:50:1). The title compound is obtained as yellow oil. TLC: methylene chloride/methanol/conc. ammonia (2000:50:1) Rf =0.36, FD-MS: M+ =581.

reactant | thionyl chloride | 0.795 mmol, 58 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 2-naphthoic acid | 0.56 mmol, 97 mg | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | Water | O | H2O
solvent | toluene | 0.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2R*,4S*)-2-Benzyl-1-(2-naphthoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)C1=CC2=CC=CC=C2C=C1 | C35H30F3N3O2
